US07449456B2
1-(4-nitrophenyl)piperazine and N,N-dimethylglycine hydrochloride were allowed to undergo the reaction using WSC hydrochloride and HOBt in 1-methyl-2-pyrrolidone in the presence of triethylamine. The resulting compound was subjected to-catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain 1-[4-(4-aminophenyl)piperazin-1-yl]-2-dimethylaminoethanone. NMR2: 2.30 (6H, s), 3.74-3.76 (4H, m), 6.64-6.68 (2H, m).

reactant | 1-(4-nitrophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | N,N-dimethylglycine hydrochloride | Cl.CN(CC(=O)O)C
reactant | WSC hydrochloride | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[4-(4-aminophenyl)piperazin-1-yl]-2-dimethylaminoethanone | NC1=CC=C(C=C1)N1CCN(CC1)C(CN(C)C)=O | C14H22N4O
